US09062045B2
Quinolin-6-yl acetate (A.i)
To a solution of quinolin-6-ol (4.5 g, 31.0 mmol) and pyridine (3.01 ml, 37.2 mmol) in DCM (50 ml) was added acetyl chloride (2.65 ml, 37.2 mmol) at 0° C. The mixture was then stirred at rt for 8 h. The reaction was quenched with saturated NaHCO3 and the mixture was extracted with DCM (30 ml) three times. The combined organic phase was washed with brine and dried over anhydrous MgSO4, filtered and concentrated to give the title compound (5.0 g, 68.9% yield), which was used directly in next step. LCMS (method B): [M+H]+=188, tR=1.64 min.

reactant | quinolin-6-ol | 31.0 mmol, 4.5 g | N1=CC=CC2=CC(=CC=C12)O | C9H7NO
reactant | pyridine | 37.2 mmol, 3.01 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 37.2 mmol, 2.65 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | Quinolin-6-yl acetate | 5.0 g, 68.9% yield | C(C)(=O)OC=1C=C2C=CC=NC2=CC1 | C11H9NO2
